US05502211
Allen, Kwong-Chip, Lin, Nguyen and Tidwell, "Formation and reactivity of 1-pyrrolyl-2,2,2-trifluoroethyl cations", Canad.J. Chem., 68, 1709 1990 disclose that reaction of 1-methylpyrrole with trifluoroacetic anhydride gives 1-methyl-2-trifluoroacetyl-pyrrole, which is then reduced to the alcohol, which is then in turn converted to the p-nitrobenzoate.

reactant | 1-methylpyrrole | CN1C=CC=C1 | C5H7N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 1-methyl-2-trifluoroacetyl-pyrrole | CN1C(=CC=C1)C(C(F)(F)F)=O | C7H6F3NO
